US04929269
(v) 3-(Chloroacetamido)-2-hydroxyphenyl sulfonamide
A mixture of 5-t-butyl-2-methoxy-3-(chloroacetamido) phenyl-N-t-butyl-sulfonamide (8.0 g), aluminium chloride (16.4 g) and m-xylene (80 ml) was heated at 95° C. with stirring for 16 hours under nitrogen. The mixture was then poured into a beaker containing diethyl ether (300 ml) and water (300 ml) and stirred at ambient temperature for 15 minutes. The organic layer is separated and dried over sodium sulphate and concentrated under vacuum in order to remove all diethyl ether. The residual solution was cooled and hexane added to precipitate the title compound (4.7 g).

reactant | 5-t-butyl-2-methoxy-3-(chloroacetamido) phenyl-N-t-butyl-sulfonamide | 8.0 g | C(C)(C)(C)C=1C=C(C(=C(C1)S(=O)(=O)NC(C)(C)C)OC)NC(CCl)=O | C17H27ClN2O4S
reactant | aluminium chloride | 16.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | m-xylene | 80 ml | C1(=CC(=CC=C1)C)C | C8H10
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | water | 300 ml | O | H2O
product | 3-(Chloroacetamido)-2-hydroxyphenyl sulfonamide | ClCC(=O)NC=1C(=C(C=CC1)S(=O)(=O)N)O | C8H9ClN2O4S
